US09056881B2
Propargyl bis(pentafluoroethyl)phosphinate (4.131 g; 12.1 mmol) is slowly added dropwise to cooled (0° C.) trioctylamine (4.333 g; 12.3 mmol) in a 100 ml glass flask. An orange, more highly viscous solution forms spontaneously, which is warmed to room temperature. The readily volatile constituents are removed in vacuo (10−3 mbar) at room temperature to 120° C. Trioctylpropargylammonium bis(pentafluoroethyl)phosphinate, [(C8H17)3—NCH2C≡CH][(C2F5)2P(O)O], (7.646 g; 11.0 mmol) is isolated as pale-orange liquid in a yield of 91% and a purity of 97%.

reactant | Propargyl bis(pentafluoroethyl)phosphinate | 12.1 mmol, 4.131 g | FC(C(F)(F)F)(F)P(OCC#C)(=O)C(C(F)(F)F)(F)F | C7H3F10O2P
reactant | trioctylamine | 12.3 mmol, 4.333 g | C(CCCCCCC)N(CCCCCCCC)CCCCCCCC | C24H51N
product | Trioctylpropargylammonium bis(pentafluoroethyl)phosphinate | yield of 91% | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C(CCCCCCC)[N+](CC#C)(CCCCCCCC)CCCCCCCC | InChI=1S/C27H54N.C4HF10O2P/c1-5-9-12-15-18-21-25-28(24-8-4,26-22-19-16-13-10-6-2)27-23-20-17-14-11-7-3;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h4H,5-7,9-27H2,1-3H3;(H,15,16)/q+1;/p-1
